US20010027196A1
To a stirred suspension of 50 mg (0.23 mmol) 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile in 1 ml DME were added 28 mg (0.23 mmol) 3-methyl-2-pyridinemethanol and 52 1l (0.35 mmol) DBU and stirring continued for 30 min at room temperature. 5 ml water was then added and the resulting crystals collected by filtration and washed with ether to afford 22 mg (35%) 2-amino-4-chloro-6-(3-methyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 278 (M{37Cl}+H+, 35), 276 (M{35Cl}+H+, 100).

reactant | 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile | 0.23 mmol, 50 mg | NC1=NC(=C(C(=N1)Cl)C#N)S(=O)C | C6H5ClN4OS
reactant | 3-methyl-2-pyridinemethanol | 0.23 mmol, 28 mg | CC=1C(=NC=CC1)CO | C7H9NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 5 ml | O | H2O
solvent | DME | 1 ml | COCCOC | C4H10O2
product | 2-amino-4-chloro-6-(3-methyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | 22 mg, 35% | NC1=NC(=C(C(=N1)Cl)C#N)OCC1=NC=CC=C1C | C12H10ClN5O
